US05484551
2.6 g of N,N'-dicyclohexylcarbodiimide were added while stirring within 5 minutes to a solution of 1.2 g of 4-cyano-3-fluorophenol, 1.2 g of 4-[(E)-but-2-enoyloxy]benzoic acid and 0.1 g of 4-(dimethylamino)pyridine in 50 ml of dichloromethane. The reaction mixture was stirred overnight, then filtered. The filtrate was washed with saturated sodium bicarbonate solution and with water and concentrated. Chromatographic purification of the residue on silica gel with hexane/ethyl acetate (vol. 9:1) and two-fold recrystallization of the fractions which were pure according to thin-layer chromatography gave 2.0 g of 4-cyano-3-fluorophenyl 4-[(E)-but-2-enoyloxy]benzoate. M.p. (C-N) 125° C. and cl.p. (N-I) 195° C.

reactant | N,N'-dicyclohexylcarbodiimide | 2.6 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 4-cyano-3-fluorophenol | 1.2 g | C(#N)C1=C(C=C(C=C1)O)F | C7H4FNO
reactant | 4-[(E)-but-2-enoyloxy]benzoic acid | 1.2 g | C(\C=C\C)(=O)OC1=CC=C(C(=O)O)C=C1 | C11H10O4
catalyst | 4-(dimethylamino)pyridine | 0.1 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 4-cyano-3-fluorophenyl 4-[(E)-but-2-enoyloxy]benzoate | 2.0 g | C(\C=C\C)(=O)OC1=CC=C(C(=O)OC2=CC(=C(C=C2)C#N)F)C=C1 | C18H12FNO4
